US08314107B2
A mixture of 2-amino-4-methoxypyridine (1.0 g, 8.1 mmol) and ethyl 3-bromo-2-oxopropanoate (1.77 g, 9.1 mmol) in ethanol (10 mL) was refluxed for 6 h. After the reaction was concentrated, ethyl acetate (20 mL) was added to the residue. The mixture was basified by saturated aqueous sodium bicarbonate. The separated organic layer was washed with brine and dried over sodium sulfate. The solvent was evaporated and the residue obtained was purified by flash chromatography (silica gel, methylene chloride/ethyl acetate=1/1) to afford ethyl 7-methoxyimidazo[1,2-a]pyridine-2-carboxylate as a solid (1.04 g, 58%). 1H-NMR (DMSO-d6, 300 MHz): δ 8.37 (m, 2H), 6.91 (s, 1H), 6.70 (m, 1H), 4.25 (m, 2H), 3.81 (s, 3H), 1.28 (m, 3H) ppm; MS (ESI): 221.1 (M+1).

reactant | 2-amino-4-methoxypyridine | 8.1 mmol, 1.0 g | NC1=NC=CC(=C1)OC | C6H8N2O
reactant | ethyl 3-bromo-2-oxopropanoate | 9.1 mmol, 1.77 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl 7-methoxyimidazo[1,2-a]pyridine-2-carboxylate | 1.04 g, 58% | COC1=CC=2N(C=C1)C=C(N2)C(=O)OCC | C11H12N2O3
